US08334292B1
Step 4: Preparation of 4-(((R)-pyrrolidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine
Using the procedure of Example 1 Step 4, (R)-tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate was deprotected by TFA to provide the title compound at quantitative yield. MS (ESI) m/z: Found: 452.3 (M+1). Calc. 451.3 (M+).

reactant | (R)-tert-butyl 3-((2-(cis-4-methylcyclohexylamino)-5-(4-morpholinophenyl)pyrimidin-4-yloxy)methyl)pyrrolidine-1-carboxylate | C[C@H]1CC[C@H](CC1)NC1=NC=C(C(=N1)OC[C@H]1CN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)N1CCOCC1 | C31H45N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(((R)-pyrrolidin-3-yl)methoxy)-N-(cis-4-methylcyclohexyl)-5-(4-morpholinophenyl)pyrimidin-2-amine | quantitative yield | N1C[C@@H](CC1)COC1=NC(=NC=C1C1=CC=C(C=C1)N1CCOCC1)N[C@@H]1CC[C@@H](CC1)C | C26H37N5O2
